US04891375
A. 6-Fluoro-1-naphthoic acid
To a 1 liter round-bottomed flask equipped with condenser and N2 inlet were added 345 ml (3.68 mol) of fluorobenzene and 48 g (0.428 mol) of furoic acid. To the stirring suspension was added in portions 120 g (0.899 mmol of aluminum chloride. The reaction mixture was stirred at 95° C. for 16 hours and then quenched by addition to ice/water/1N HCl. After stirring 1 hour, the aqueous layer was decanted, and benzene and a saturated aqueous solution of sodium bicarbonate were added. After stirring 1 hour, the layers were separated, the aqueous layer washed with benzene, acidified, and extracted into ethyl acetate. The ethyl acetate layer was washed with water and brine, dried over sodium sulfate, and evaporated to a solid. The solid was triturated with isopropyl ether to give 5.0 g (6.1%) of a white solid, NMR (DMSO-d6): 7.0-8.0 (m, 5H), 8.6 (m, 1H).

reactant | fluorobenzene | 3.68 mol, 345 ml | FC1=CC=CC=C1 | C6H5F
reactant | furoic acid | 0.428 mol, 48 g | O1C(=CC=C1)C(=O)O | C5H4O3
catalyst | aluminum chloride | 0.899 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Fluoro-1-naphthoic acid | 5.0 g, 6.1% | FC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H7FO2
